US08252831B2
5-(Aminomethyl)-2-(trifluoromethyl)benzoic acid
Combine benzyl 5-cyano-2-(trifluoromethyl)benzoate (3.9 g, 12.78 mmol, 1.0 equiv), palladium (10 wt % on carbon, 400 mg, 0.38 mmol, 0.03 equiv), and methanol (128 mL), and purge the mixture with hydrogen. Stir overnight under a hydrogen atmosphere. Filter the mixture through a pad of diatomaceous earth, and then rinse the pad with hot methanol (3×150 mL) to bring through precipitated product. Concentrate the filtrate under reduced pressure to give the title compound (1.4 g, 50%). MS (m/z) 220 (M+1).

reactant | benzyl 5-cyano-2-(trifluoromethyl)benzoate | 12.78 mmol, 3.9 g, 1.0 equiv | C(#N)C=1C=CC(=C(C(=O)OCC2=CC=CC=C2)C1)C(F)(F)F | C16H10F3NO2
reactant | hydrogen | [H][H] | H2
catalyst | palladium | 0.38 mmol, 400 mg, 0.03 equiv | [Pd] | Pd
solvent | methanol | 128 mL | CO | CH4O
product | 5-(Aminomethyl)-2-(trifluoromethyl)benzoic acid | 1.4 g, 50% | NCC=1C=CC(=C(C(=O)O)C1)C(F)(F)F | C9H8F3NO2
